US07507760B2
Synthesis of (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid[1-(3,5-di-tert-butyl-4-methoxy-benzoyl)-pyrrolidin-3-yl]-methyl-amide
To a solution of (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid methyl-pyrrolidin-3-yl-amide (0.78 g, 2.02 mmol) in dry CH2Cl2 (30 ml) was added 3,5-di-tert-butyl-4-methoxy benzoic acid (0.53 g, 2.02 mmol) under nitrogen. To the reaction was added EDC (0.77 g, 4.04 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue was dissolved in ethyl acetate: water (10:1) (150 ml). The organic was washed with water (30 ml, 2×) and 10% NaOH (30 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using CH2Cl2:CH3OH (15:1) to give 1.1 g of desired product.

reactant | (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid methyl-pyrrolidin-3-yl-amide | 2.02 mmol, 0.78 g | CN(C(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)[C@H]1CNCC1 | C23H28F2N2O
reactant | 3,5-di-tert-butyl-4-methoxy benzoic acid | 2.02 mmol, 0.53 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)(C)C | C16H24O3
reactant | EDC | 4.04 mmol, 0.77 g
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid[1-(3,5-di-tert-butyl-4-methoxy-benzoyl)-pyrrolidin-3-yl]-methyl-amide | 1.1 g | C(C)(C)(C)C=1C=C(C(=O)N2C[C@@H](CC2)N(C(CCCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)=O)C)C=C(C1OC)C(C)(C)C | C39H50F2N2O3
